US04317820
4.5 g of 5-methanesulfonyloxy-3,4-dihydrocarbostyril was suspended in 90 ml of dioxane and 35 g of NaBH4 was added to the suspension, then 5.3 ml of acetic acid was added dropwise to the mixture. After heat-refluxing the resulting mixture for 1 hour, the solvent was removed under reduced pressure. Saturated aqueous solution of sodium bicarbonate was added to the residue to form precipitates which were filtered and washed with chloroform. The filtrate was extracted with chloroform and the chloroform layer was dried over Na4SO4 followed by removing the solvent. The residue was purified through a silica gel column chromatography (silica gel:Wako 200, a trade name for a product of Wako Junyaku Co., Ltdl; eluant:chloroform) and the eluate thus-obtained was crystallized from petroleum ether. Recrystallization of the crystals thus-obtained from methanol gave 1.9 g of 5-methanesulfonyloxy-1,2,3,4-tetrahydroquinoline as colorless prisms having a melting point of 74° to 76° C.

reactant | 5-methanesulfonyloxy-3,4-dihydrocarbostyril | 4.5 g | CS(=O)(=O)OC1=C2CCC(NC2=CC=C1)=O | C10H11NO4S
reactant | NaBH4 | 35 g | [BH4-].[Na+]
reactant | acetic acid | 5.3 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
product | 5-methanesulfonyloxy-1,2,3,4-tetrahydroquinoline | 1.9 g | CS(=O)(=O)OC1=C2CCCNC2=CC=C1 | C10H13NO3S
